US03931247
α-Methyl-5-(p-methylsulfonylphenyl)furfuryl Alcohol
A mixture of 2.0 g (0.0076 mole) of 5-(p-methylsulfonylphenyl)-2-furyl ketone and 40 ml of 95% of dioxane/H2O was treated portionwise with 0.29 g (0.0076 mole) of NaBH4 while maintaining the temperature at 15°-20° by means of an ice bath. The resulting solution was stirred at room temperature for 2 hours, added to ice/H2O and the resulting precipitate filtered and dried in the vacuum pistol at room temperature to yield 1.3 g (64%), m.p. 118°-120°, of title compound.

reactant | 5-(p-methylsulfonylphenyl)-2-furyl ketone | 0.0076 mole, 2.0 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C(=O)C=1OC(=CC1)C1=CC=C(C=C1)S(=O)(=O)C | C23H18O7S2
reactant | NaBH4 | 0.0076 mole, 0.29 g | [BH4-].[Na+]
solvent | dioxane H2O | 40 ml | O1CCOCC1.O
product | α-Methyl-5-(p-methylsulfonylphenyl)furfuryl Alcohol | CC(C1=CC=C(O1)C1=CC=C(C=C1)S(=O)(=O)C)O | C13H14O4S
